US09371317B2
N-(1-(((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)methyl)cyclopentyl)-2-(methylamino)isonicotinamide
To a stirred suspension of 4-amino-5-((1-aminocyclopentyl)methoxy)-1H-benzo[c][1,2,6]thiadiazine 2,2-dioxide hydrochloride (200 mg, 0.577 mmol) in DMF (5 mL) was added triethylamine (0.32 mL, 2.31 mmol). After being stirred at room temperature for 10 min., a mixture of 2-(methylamino)isonicotinic acid (88 mg, 0.577 mmol), EDCI (122 mg, 0.635 mmol) and HOBt (86 mg, 0.635 mmol) in 10 ml of DMF were added, and the reaction mixture was then stirred at room temperature overnight and at 55° C. for 2 hrs. The resulting solution was purified by preparative HPLC (10-90% CH3CN in water). The clean fractions were collected and re-crystallized from ethanol/water, dried at 60° C. under vacuum to provide the title compound (87 mg) in 34% yield. 1H NMR (400 MHz, DMSO-d6) δ 1.62-1.84 (m, 6H), 2.15-2.21 (m, 2H), 2.76 (J=4.8 Hz, 3H), 4.40 (s, 2H), 6.59-6.64 (m, 3H), 6.70-6.72 (m, 1H), 6.77 (d, J=8.0 Hz, 1H), 7.43 (t, J=8.8 Hz, 1H), 7.88 (s, 1H), 8.00 (d, J=5.2 Hz, 1H), 8.33 (s, 1H), 8.38 (s, 1H), 10.97 (s, 1H). MS 445 (MH+).

reactant | 4-amino-5-((1-aminocyclopentyl)methoxy)-1H-benzo[c][1,2,6]thiadiazine 2,2-dioxide hydrochloride | 0.577 mmol, 200 mg | Cl.NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC2(CCCC2)N
reactant | triethylamine | 2.31 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(methylamino)isonicotinic acid | 0.577 mmol, 88 mg | CNC=1C=C(C(=O)O)C=CN1 | C7H8N2O2
reactant | EDCI | 0.635 mmol, 122 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.635 mmol, 86 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(1-(((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)methyl)cyclopentyl)-2-(methylamino)isonicotinamide | 87 mg, 34% yield | NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC2(CCCC2)NC(C2=CC(=NC=C2)NC)=O | C20H24N6O4S
